*PART NUMBER:MUSES8920
*JFET OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
* All Rights Reserved *
* Commercial Use or Resale Restricted *
********************************************
.Subckt MUSES8920 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1_U1 +IN1 -IN1 V+ V- OUT1 MUSES8920_s
X2_U2 +IN2 -IN2 V+ V- OUT2 MUSES8920_s
.ends MUSES8920
*$
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | output
* | | | | |
.subckt MUSES8920_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
M1 11 2 13 13 PMOS1
M2 12 NET1 14 14 PMOS2
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 21 4 {VRD}
VRD2 22 4 {VRD}
RS2 10 14 {RS2}
RS1 10 13 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}
.MODEL DMOD1 D(T_MEASURED= 25 IS= 1.57E-63)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL PMOS1 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 1.51E+02)
.MODEL PMOS2 PMOS(LEVEL=1 VTO= -4.89E-01
+ KP= 4.01E-05 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 1.51E+02)
*
.PARAM
+ C1 = 1.09E-13
+ C2 = 5.3E-11
+ CS = 0.00E+00
+ GCM = 1.31E-08
+ GA = 4.15E-03
+ GB = 430.86
+ GC = 1615723.038
+ ITL = 1.50E-03
+ RD1 = 241.14
+ RD2 = 241.14
+ RC = 6.19E-07
+ RS1 = 26.20
+ RS2 = 26.20
+ RO1 = 50
+ RO2 = 25
+ RP = 2.40E+04
+ VD = 2.028230866
+ VS = 2.028230866
+ VOS = 7.97377E-04
+ IDS = 6.7E-3
+ VTL = 9.09E-01
+ VRD = 1.45E+00
+ L_VAL= 1.00E-05
+ W_VAL= 3.60E-03
.ends MUSES8920_s